US07230007B2
4.22 g (26 mmol) of 1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid were added to 100 cm3 of methanol at a temperature in the region of 20° C. and then 2.5 cm3 of concentrated sulfuric acid were run in dropwise. After stirring at reflux of the solvent for 16 h, the reaction medium was concentrated to dryness under reduced pressure (2.7 kPa). The residue was rapidly added to 50 cm3 of water and the pH was adjusted to 8 by addition of 1N sodium hydroxide. After extracting with 300 cm3 of ethyl acetate, the organic phase was washed with 2 times 100 cm3 of water and then 100 cm3 of saturated aqueous sodium chloride solution. After drying over magnesium sulfate and then concentrating to dryness under reduced pressure (2.7 kPa), 3.7 g of methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate were obtained in the form of a yellow powder. Mass spectrum: EI: m/z=176 M+; base pic: m/z=145 (M−CH3O)+.

reactant | 1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 26 mmol, 4.22 g | N1C=C(C=2C1=NC=CC2)C(=O)O | C8H6N2O2
reactant | sulfuric acid | 2.5 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 cm3 | CO | CH4O
product | methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 3.7 g | N1C=C(C=2C1=NC=CC2)C(=O)OC | C9H8N2O2
